US07405210B2
Preparation 49: 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-(4-methoxyphenyl)-[1,3]-dioxolan-2-ylmethyl]amide
To a solution of [2-(4-methoxyphenyl)-[1,3]-dioxolan-2-yl]methylamine (Preparation 45, 0.117 g, 0.56 mmol) in dichloromethane (5 mL) was added DIPEA (213 μL, 1.22 mmol), 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18, 0.100 g, 0.51 mmol) and HOBT (0.076 g, 0.56 mmol). The resulting solution was stirred for 2 min then EDCI (0.117 g, 0.61 mmol) was added and stirring was continued for 18 h at rt. The reaction mixture was partitioned between dichloromethane (30 mL) and water (20 mL) and the layers separated. The aqueous phase was extracted with dichloromethane (3×20 mL) then the combined organics were washed with brine (20 mL), dried (MgSO4), filtered and concentrated in vacuo. Recrystallisation from methanol/dichloromethane gave the title compound as an orange solid. δH (CDCl3): 3.81 (3H, s), 3.84-3.91 (4H, m), 4.05 (2H, m), 6.56 (1H, t), 6.76 (1H,s), 6.89 (2H, d), 7.44 (2H, d), 7.57 (1H, s), 8.68 (1H, s), 9.94 (1H, br s).

reactant | [2-(4-methoxyphenyl)-[1,3]-dioxolan-2-yl]methylamine | 0.56 mmol, 0.117 g | COC1=CC=C(C=C1)C1(OCCO1)CN | C11H15NO3
reactant | DIPEA | 1.22 mmol, 213 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 0.51 mmol, 0.100 g | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | HOBT | 0.56 mmol, 0.076 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.61 mmol, 0.117 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-(4-methoxyphenyl)-[1,3]-dioxolan-2-ylmethyl]amide | COC1=CC=C(C=C1)C1(OCCO1)CNC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C19H18ClN3O4
